US07138363B2
6.93 g (50 mmol) of 4-chloro-2-cyanopyridine in 40 ml of methanol are treated for one hour with 0.27 g (5 mmol) sodium methoxide. After the addition of 3.00 g (56 mmol) of ammonium chloride, refluxing is carried out for two hours. The volatile components are then removed in vacuo. The 2-amidino-4-chloropyridine hydrochloride so obtained is reacted without further purification.

reactant | 4-chloro-2-cyanopyridine | 50 mmol, 6.93 g | ClC1=CC(=NC=C1)C#N | C6H3ClN2
reactant | sodium methoxide | 5 mmol, 0.27 g | C[O-].[Na+]
reactant | ammonium chloride | 56 mmol, 3.00 g | [Cl-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
product | 2-amidino-4-chloropyridine hydrochloride | Cl.C(N)(=N)C1=NC=CC(=C1)Cl | InChI=1S/C6H6ClN3.ClH/c7-4-1-2-10-5(3-4)6(8)9;/h1-3H,(H3,8,9);1H
